US05981535
1,3-Di-cyclopropylmethyl-8-piperidinyl xanthine
The title compound was prepared from 1,3-di-cyclopropylmethyl-8-bromo xanthine (1.2 g, 0.0037 mol) and piperidine (0.79 g, 0.009 mol) using an analogous procedure to that described in Example 19. The title product was obtained as a crystalline solid, m.pt. >250° C.

reactant | 1,3-di-cyclopropylmethyl-8-bromo xanthine | 0.0037 mol, 1.2 g | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)Br)CC1CC1 | C13H15BrN4O2
reactant | piperidine | 0.009 mol, 0.79 g | N1CCCCC1 | C5H11N
product | 1,3-Di-cyclopropylmethyl-8-piperidinyl xanthine | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)N1CCCCC1)CC1CC1 | C18H25N5O2
